US05556864
26(a) 2-{2-[4-(4-Methoxyphenyl)butyl]phenoxymethyl}-oxirane
A solution of 1.53 g of diethyl azodicarboxylate in 2 ml of methylene chloride was added dropwise, whilst ice-cooling and stirring, to a solution of 1.5 g of 2-[4-(4-methoxyphenyl)butyl]phenol (prepared as described in Preparation 12), 0.65 g of glycidol and 2.3 g of triphenylphosphine in 25 ml of methylene chloride, and the resulting mixture was stirred at room temperature for 1.5 hours. At the end of this time, the reaction mixture was mixed with water, and the methylene chloride layer which separated was dried over anhydrous sodium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.54 g (yield 29%) of the title compound as a colorless oil.

reactant | diethyl azodicarboxylate | 1.53 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[4-(4-methoxyphenyl)butyl]phenol | 1.5 g | COC1=CC=C(C=C1)CCCCC1=C(C=CC=C1)O | C17H20O2
reactant | glycidol | 0.65 g | C1C(O1)CO | C3H6O2
reactant | triphenylphosphine | 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-{2-[4-(4-Methoxyphenyl)butyl]phenoxymethyl}-oxirane | 0.54 g, yield 29% | COC1=CC=C(C=C1)CCCCC1=C(OCC2OC2)C=CC=C1 | C20H24O3
